US07312330B2
D. (4-tert-Butyl-phenyl)-[7-(3-chloro-pyridin-2-yl)-2-methoxymethyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-amine hydrochloride
The title compound was prepared using the general procedure set forth in Example 3.B. using N-(4-tert-butylphenyl)-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine (0.105 g, 0.32 mmol), 2,3-dichloropyridine (0.071 g, 0.48 mmol), potassium carbonate (0.13 g, 0.96 mmol) and DMF (2 mL) and heating the reaction mixture for 1 h. The title compound was obtained as a light yellow solid after formation and isolation of its hydrochloride salt (15 mg)

reactant | N-(4-tert-butylphenyl)-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine | 0.32 mmol, 0.105 g | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)COC)CNCC2 | C19H26N4O
reactant | 2,3-dichloropyridine | 0.48 mmol, 0.071 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | potassium carbonate | 0.96 mmol, 0.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (4-tert-Butyl-phenyl)-[7-(3-chloro-pyridin-2-yl)-2-methoxymethyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl]-amine hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)COC)CN(CC2)C2=NC=CC=C2Cl | InChI=1S/C24H28ClN5O.ClH/c1-24(2,3)16-7-9-17(10-8-16)27-22-18-11-13-30(23-19(25)6-5-12-26-23)14-20(18)28-21(29-22)15-31-4;/h5-10,12H,11,13-15H2,1-4H3,(H,27,28,29);1H
